US04141901
To a solution of 2-carbobenzoxyaminomethyl-3-amino-4-hydroxy-4-(2-chlorophenyl)-6-chloro-3,4-dihydroquinazoline (18.84 g) in dimethylformamide (100 ml), chloroacetyl chloride (8.48 g) is added, and the resultant mixture is stirred at room temperature for 1 hour and allowed to stand overnight. The reaction mixture is neutralized with aqueous sodium bicarbonate and shaked with ethyl acetate. The ethyl acetate layer is evaporated under reduced pressure to remove the solvent, and the residue is washed with ether to give 2-carbobenzoxyaminomethyl-3-(2-chloroacetamido)-4-hydroxy-4-(2-chlorophenyl)-6-chloro-3,4-dihydroquinazoline (18.9 g). This product is recrystallized from ethyl acetate to give crystals melting at 130° to 134° C.

reactant | 2-carbobenzoxyaminomethyl-3-amino-4-hydroxy-4-(2-chlorophenyl)-6-chloro-3,4-dihydroquinazoline | 18.84 g | C(=O)(OCC1=CC=CC=C1)NCC1=NC2=CC=C(C=C2C(N1N)(C1=C(C=CC=C1)Cl)O)Cl | C23H20Cl2N4O3
reactant | chloroacetyl chloride | 8.48 g | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-carbobenzoxyaminomethyl-3-(2-chloroacetamido)-4-hydroxy-4-(2-chlorophenyl)-6-chloro-3,4-dihydroquinazoline | 18.9 g | C(=O)(OCC1=CC=CC=C1)NCC1=NC2=CC=C(C=C2C(N1NC(CCl)=O)(C1=C(C=CC=C1)Cl)O)Cl | C25H21Cl3N4O4
